US07501424B2
Preparation of 4-methyl-3-(4-pyrazin-2-yl-pyrimidin-2-ylamino)benzoic acid ethyl ester
3-dimethylamino-1-pyrazin-2-yl-propenone prepared in Preparation 2 and 3-guanidino-4-methylbenzoic acid ethyl ester nitrate were used instead 3-dimethylamino-1-pyridin-3-yl-propenone and 4-guanidino-benzoic acid ethyl ester nitrate according to the similar procedure to Preparation 8 to give the titled compound as yellow solid.

reactant | 3-dimethylamino-1-pyrazin-2-yl-propenone | CN(C)/C=C/C(=O)C1=NC=CN=C1 | C9H11N3O
reactant | 3-guanidino-4-methylbenzoic acid ethyl ester nitrate | [N+](=O)(O)[O-].C(C)OC(C1=CC(=C(C=C1)C)NC(=N)N)=O
reactant | 4-guanidino-benzoic acid ethyl ester nitrate | [N+](=O)(O)[O-].C(C)OC(C1=CC=C(C=C1)NC(=N)N)=O
product | 4-methyl-3-(4-pyrazin-2-yl-pyrimidin-2-ylamino)benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C1=NC=CN=C1)=O | C18H17N5O2
